US09290496B2
Step 1: Preparation of 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(3-nitrophenoxy)-9H-purin-6-amine
To a solution of 3-nitro-phenol (143 mg, 1.03 mmol) in DMF (15 mL) was added sodium hydride (56 mg, 1.4 mmol) slowly and the mixture was stirred at rt for 30 min. 2-chloro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine (200 mg, 0.69 mmol), as prepared in step 1 of Example 2, was added slowly. After the addition, the mixture was stirred at 110° C. overnight. The cooled reaction mixture was poured into water (100 mL) and extracted with EtOAc (2×30 mL). The combined organic extracts were dried over Na2SO4, concentrated and the residue was purified by flash column chromatography (MeOH:EtOAc=1:10) to give the title compound (50 mg, 18% yield) as light yellow oil.

reactant | 3-nitro-phenol | 1.03 mmol, 143 mg | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | sodium hydride | 1.4 mmol, 56 mg | [H-].[Na+]
reactant | 2-chloro-9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | 0.69 mmol, 200 mg | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C | C12H14ClN7
reactant | water | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(3-nitrophenoxy)-9H-purin-6-amine | 50 mg, 18% yield | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C18H18N8O3
